US05556977
To a stirred suspension of 4-(4-pyridyl) piperazin-2-one (880 mg) in dimethyl formamide (20 ml) was added potassium hydride (1.0 ml of a 20% dispersion) and the mixture stirred for 0.5 hr, after which time was added copper (I) iodide (1.0 g). After 0.25 hr there was added 4-benzyloxybromobenzene (1.2 g) and the mixture stirred at 140° C in an argon atmosphere for 2 hr. The reaction mixture was diluted with water and brine and extracted with dichloromethane (3×40 ml); the combined extracts were washed with water and brine, dried (PS paper) and evaporated to give crude product as a pasty solid (2.0 g). This was purified by flash chromatography on silica, eluting with dichloromethane/methanol/conc- ammonia (97:2.5:0.5 v/v) to give 4-benzyloxy [4-(4-pyridyl)piperazin-2-one-1-yl]benzene as a colourless solid (1.1 g) NMR δ (d6 DMSO) :3.7-3.9 (4H,m); 4.1 (2H,s); 5.1 (2H,s); 6.85 (2H,d); 7.05 (2H,d); 7.25 (2H,d); 7.3-7.6 (5H,m); 8.2 (2H,d); m/e 360 (M+H)+.

reactant | 4-(4-pyridyl) piperazin-2-one | 880 mg | N1=CC=C(C=C1)N1CC(NCC1)=O | C9H11N3O
reactant | potassium hydride | [H-].[K+]
reactant | 4-benzyloxybromobenzene | 1.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | copper (I) iodide | 1.0 g | [Cu]I
product | 4-benzyloxy [4-(4-pyridyl)piperazin-2-one-1-yl]benzene | 1.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(CN(CC1)C1=CC=NC=C1)=O | C22H21N3O2
